US07829572B2
Preparation of (3-(benzyloxy)pyridin-2-yl)methanol
2-hydroxymethyl-3-hydroxypyridine (100.3 g, 620.7 mmol) was dissolved in acetone (1 L). Potassium carbonate (180 g, 1.3 mol) was added followed by benzyl bromide (127 g, 745 mmol). The mixture was heated at reflux for 48 hours. The resultant mixture was cooled to room temperature and filtered through celite. The filter cake was washed with acetone (1 L). The combined filtrate was concentrated in vacuo to provide an orange oil. This oil was purified by silica gel column chromatography using 10-40% ethyl acetate/hexanes as eluant. The resultant tan solid was recrystallized from hexanes to provide the product (88.2 g, 66% yield). 1H NMR (400 MHz, CDCl3) δ 8.2 (t, 1H), 7.4 (m, 5H), 7.15 (d, 2H), 5.1 (s, 2H), 4.8 (d, 2H), 4.3 (t, 1H).

reactant | 2-hydroxymethyl-3-hydroxypyridine | 620.7 mmol, 100.3 g | OCC1=NC=CC=C1O | C6H7NO2
reactant | Potassium carbonate | 1.3 mol, 180 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 745 mmol, 127 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 1 L | CC(=O)C | C3H6O
product | (3-(benzyloxy)pyridin-2-yl)methanol | 88.2 g, 66% yield | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CO | C13H13NO2
